US04085226
A solution of 18.2 g (0.1 mole) of 2-chlorobenzoylisocyanate in 50 ml of toluene was added dropwise at 40° C to 19.5 g (0.1 mole) of 4-chloro-3-trifluoromethylaniline in 200 ml of toluene. The batch was stirred for 1 hour at 40° C. After cooling, the product which had precipitated was filtered off and washed first with toluene and then with petroleum ether. After drying, 21.0 g (55% of theory) of analytically pure N-(4-chloro-3-trifluoromethylphenyl)-N'-(2-chlorobenzoyl)-urea of melting point 164° C were obtained.

reactant | 2-chlorobenzoylisocyanate | 0.1 mole, 18.2 g | ClC1=C(C(=O)N=C=O)C=CC=C1 | C8H4ClNO2
reactant | 4-chloro-3-trifluoromethylaniline | 0.1 mole | ClC1=C(C=C(N)C=C1)C(F)(F)F | C7H5ClF3N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-chloro-3-trifluoromethylphenyl)-N'-(2-chlorobenzoyl)-urea | ClC1=C(C=C(C=C1)NC(=O)NC(C1=C(C=CC=C1)Cl)=O)C(F)(F)F | C15H9Cl2F3N2O2
